USH0000253
2-(Fluorodinitromethyl)-1,4-butanediol
To a 1M solution of borane-THF (5 ml, 5 mmole) stirred under a nitrogen atmosphere in an ice bath was added 1.0 g (4.8 mmole) of 4-hydroxy-3-(fluorodinitromethyl)butyric acid, gamma-lactone. The solution was then held in a water bath at 25°-28° C. for 24 hr. before 1 ml of water was slowly added dropwise. The solution was poured into 15 ml of water and extracted with ether to give 1.02 g (100%) of an oil which was essentially pure by TLC. Chromatography on silica gel 60 using methylene chloride-acetone (80/20) as eluent gave an analytical sample. 1H NMR (CDCl3) 1.70-1.93 (m, 2H), 2.36(OH), 3.34-3.97 (m, 5H); IR (film) 3700-3050 (OH), 1605 (NO2) cm-1.

reactant | borane THF | 5 mmole, 5 ml | B.C1CCOC1
reactant | 4-hydroxy-3-(fluorodinitromethyl)butyric acid | 4.8 mmole, 1.0 g | OCC(CC(=O)O)C([N+](=O)[O-])([N+](=O)[O-])F | C5H7FN2O7
solvent | water | 15 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 2-(Fluorodinitromethyl)-1,4-butanediol | 1.02 g, 100% | FC(C(CO)CCO)([N+](=O)[O-])[N+](=O)[O-] | C5H9FN2O6
